US07547691B2
2-{5-Bromo-2-[2-(1,4-dimethylpiperidin-4-yl)-ethylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide di-hydrochloride
To 2-{5-bromo-2-[2-(4-methylpiperidin-4-yl)-ethylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide dihydrochloric acid (0.200 g, 0.34 mmol) dissolved in 3:1 MeOH:dichloromethane (8 mL) is added 37.4% aqueous formaldehyde (0.076 mL, 1.02 mmol). After 1 hour, the reaction mixture is cooled in an ice bath and sodium borohydride is added in portions over two minutes. The reaction proceeds for 1 hour in an ice bath and 1 hour at room temperature. By TLC an intermediate is present and an additional equivalent of sodium borohydride is added at 0° C. After 30 minutes the entire reaction mixture is loaded onto a silica gel column and chromatographed, eluting with 3-7% (2 M NH3 in MeOH) in dichloromethane to give 116 mg, 64% yield, of the methylated product. It is converted to the titled compound by treating with concentrated HCl solution and isolated as a yellow solid. ES+(m/z) 528 (79Br) and 530 (81Br) [M(free base)+H].

reactant | 2-{5-bromo-2-[2-(4-methylpiperidin-4-yl)-ethylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide dihydrochloric acid | 0.34 mmol, 0.200 g | Cl.Cl.C1(CC1)NC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2Br)NCCC2(CCNCC2)C
reactant | dichloromethane | 8 mL | ClCCl | CH2Cl2
reactant | formaldehyde | 1.02 mmol, 0.076 mL | C=O | CH2O
reactant | sodium borohydride | [BH4-].[Na+]
solvent | MeOH | CO | CH4O
product | 2-{5-Bromo-2-[2-(1,4-dimethylpiperidin-4-yl)-ethylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide di-hydrochloride | 64% yield | Cl.Cl.C1(CC1)NC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2Br)NCCC2(CCN(CC2)C)C | InChI=1S/C25H30BrN5OS.2ClH/c1-25(9-12-31(2)13-10-25)8-11-27-24-28-15-19(26)22(30-24)21-14-18-17(4-3-5-20(18)33-21)23(32)29-16-6-7-16;;/h3-5,14-16H,6-13H2,1-2H3,(H,29,32)(H,27,28,30);2*1H
